US06211178B1
Synthesis of 1-[3,5-dichloro-4-(3,4-dichloro-α-cyanobenzyl)phenyl]-2-benzylidenehydrazine acetic acid ethyl ester
In 50 ml of acetic acid ethyl ester was dissolved 3.0 g of 3,5-dichloro-4-(3,4-dichloro-α-cyanobenzyl)phenylhydrazine. To the solution was added equimol. of benzaldehyde, and the mixture was stirred for 3 hours at room temperature. The reaction mixture was dried over anhydrous magnesium sulfate, which was then concentrated to afford the titled compound in a yield of 68%, m.p.75-90° C.

reactant | 3,5-dichloro-4-(3,4-dichloro-α-cyanobenzyl)phenylhydrazine | 3.0 g | ClC=1C=C(C=C(C1C(C1=CC(=C(C=C1)Cl)Cl)C#N)Cl)NN | C14H9Cl4N3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid ethyl ester | 50 ml | C(C)OC(C)=O | C4H8O2
product | 1-[3,5-dichloro-4-(3,4-dichloro-α-cyanobenzyl)phenyl]-2-benzylidenehydrazine acetic acid ethyl ester | yield of 68% | C(C)OC(C)=O.ClC=1C=C(C=C(C1C(C1=CC(=C(C=C1)Cl)Cl)C#N)Cl)NN=CC1=CC=CC=C1 | InChI=1S/C21H13Cl4N3.C4H8O2/c22-17-7-6-14(8-18(17)23)16(11-26)21-19(24)9-15(10-20(21)25)28-27-12-13-4-2-1-3-5-13;1-3-6-4(2)5/h1-10,12,16,28H;3H2,1-2H3
